US04018895
A solution of 2.6 g. of sodium azide in 10 ml. of water was placed in a 100 ml. three-neck, round-bottom flask equipped with stirrer, condenser and thermometer. A second solution containing 2.76 g. of 3-chloro-1-(o-methoxyphenoxy)propylbenzene (as provided by the procedure of Example 2) in 30 ml. of dimethylformamide was added to the sodium azide solution, and the resulting mixture heated at 95° C. overnight. The reaction mixture was cooled, diluted with water and extracted three times with ether. The ether extracts were combined, the combined extracts were washed five times with water followed by a saturated aqueous sodium chloride wash, and were then dried. Evaporation of the ether in vacuo yielded a colorless liquid comprising 3-azido-1-(o-methoxyphenoxy)propylbenzene. Forty-one grams of this latter compound were dissolved in 350 ml. of isopropanol. The resulting solution was placed in a 1 l. round-bottom flask equipped with magnetic stirrer condenser and drying tube. Fifteen and two-tenths grams of 96% sodium borohydride in the solid form were added to the azide solution. The resulting mixture was heating to refluxing temperature overnight and then cooled. The alcohol was evaporated therefrom in vacuo. About 1.5 l. of water were added, and the resulting aqueous mixture acidified cautiously with 2N aqueous hydrochloric acid. 3-(o-methoxyphenoxy)-3-phenylpropylamine produced in the above reaction was soluble in the aqueous acidic layer as the hydrochloride salt. The acidic aqueous layer was extracted three times with ether, and the ether extracts saved to recover unreacted starting material. The acidic layer was then made basic with 5N aqueous sodium hydroxide. The primary amine, being insoluble in base, separated and was extracted into ether. The ether layer was separated, and the aqueous alkaline layer extracted twice more with ether. The ether extracts were combined, and the combined layers washed with a saturated aqueous sodium chloride solution. Evaporation of the ether in vacuo yielded about 17 g. of 3-(o-methoxyphenoxy)-3-phenylpropylamine which was converted to the oxalate sale by the procedure of Example 1. 3-(o-methoxyphenoxy)-3-phenylpropylamine oxalate thus prepared melted at 118°-121° C. after recrystallization from an ethyl acetate-cyclohexane solvent mixture. The oxalate salt was converted to the hydrochloride salt by forming the free base in ether solution and then saturating the ether solution with gaseous hydrogen chloride. The hydrochloride salt melted at 77°-8° C. Analysis calc.: C, 65.91; H, 6.86; N, 4.77; Cl, 12.07; Found: C, 65.13; H, 7.12; N, 4.61; Cl, 12.21.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 3-azido-1-(o-methoxyphenoxy)propylbenzene | N(=[N+]=[N-])C=1C=C(C=CC1)C(CC)OC1=C(C=CC=C1)OC | C16H17N3O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-(o-methoxyphenoxy)-3-phenylpropylamine | COC1=C(OC(CCN)C2=CC=CC=C2)C=CC=C1 | C16H19NO2
